US05814653
6-(4-trifluoromethylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 9.2 mg (0.040 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 19.2 mg (0.101 mMol) 4-trifluoromethylbenzoic acid, 5.7 mg (35%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.040 mMol, 9.2 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-trifluoromethylbenzoic acid | 0.101 mMol, 19.2 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
product | 6-(4-trifluoromethylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 5.7 mg, 35% | FC(C1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1)(F)F | C22H22F3N3O
